US09062015B2
FS1019 Preparation of 3-{1-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]azepan-4-ylamino}propan-1-ol
The preparation is carried out analogously to FS102 starting from 107 mg (0.323 mmol) of 3-[1-(6-bromopyridin-2-yl)azepan-4-ylamino]propan-1-ol and 123 mg (0.356 mmol) of 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane. The crude product is purified by means of RP flash chromatography on C18 silica gel. The product is in the form of the hydrochloride.

reactant | 3-[1-(6-bromopyridin-2-yl)azepan-4-ylamino]propan-1-ol | 0.323 mmol, 107 mg | BrC1=CC=CC(=N1)N1CCC(CCC1)NCCCO | C14H22BrN3O
reactant | 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane | 0.356 mmol, 123 mg | CC1(OB(OC1(C)C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)C | C20H31BO2
product | 3-{1-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]azepan-4-ylamino}propan-1-ol | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCC(CCC1)NCCCO)C | C28H41N3O
